US08912330B2
3-{1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridin-6-yl}aniline
The entitled compound was prepared from 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine and (3-aminophenyl)boronic acid according to the procedure described in example 4.

reactant | 6-bromo-1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridine | BrC=1C=C2C(=NC1)C=CN2OC(C)C2=C(C(=CC=C2Cl)F)Cl | C15H10BrCl2FN2O
reactant | (3-aminophenyl)boronic acid | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
product | 3-{1-[1-(2,6-dichloro-3-fluorophenyl)ethoxy]-1H-pyrrolo[3,2-b]pyridin-6-yl}aniline | ClC1=C(C(=CC=C1F)Cl)C(C)ON1C=CC2=NC=C(C=C21)C=2C=C(N)C=CC2 | C21H16Cl2FN3O
